US05190922
Ethyl 2-benzyl-2-cyano-3-phenylpropionate (3.20 g, 11 mmol) was saponified at room temperature overnight with potassium hydroxide (6.17 g, 0.11 mol) in 10% water/ethanol. The mixture was diluted with water (200 mL) and extracted with hexane (2×50 mL). The aqueous layer was acidified with 1M phosphoric acid and extracted with methylene chloride (4×100 mL). The combined organic extracts were dried over magnesium sulfate and freed of solvent to afford 2-benzyl-2-cyano-3-phenylpropionic acid (2.94 g, 11 mmol) as a colorless solid: 1H NMR (CDCl3, 300 MHz) δ 7.34 (br s, 10 H), 3.24 (dd, J=13.5, 57 Hz); mass spectrum m/e 283 (M+NH4+).

reactant | Ethyl 2-benzyl-2-cyano-3-phenylpropionate | 11 mmol, 3.20 g | C(C1=CC=CC=C1)C(C(=O)OCC)(CC1=CC=CC=C1)C#N | C19H19NO2
reactant | potassium hydroxide | 0.11 mol, 6.17 g | [OH-].[K+]
solvent | water ethanol | O.C(C)O
solvent | water | 200 mL | O | H2O
product | 2-benzyl-2-cyano-3-phenylpropionic acid | 11 mmol, 2.94 g | C(C1=CC=CC=C1)C(C(=O)O)(CC1=CC=CC=C1)C#N | C17H15NO2
